US04315011
1.00 g. (2.87 mmoles) of ethyl-5-bromo-tryptamine-2-carboxylate hydrochloride are boiled for 2 hours in a mixture of 10 ml. of ethanol and 10 ml. of 4 n aqueous sodium hydroxide solution. The mixture is cooled with ice, acidified to pH 6 with glacial acetic acid, and the separated crystals are collected by filtration. 0.75 g. (91%) of 5-bromo-tryptamine-2-carboxylic acid are obtained; m.p.: 248°-249° C.

reactant | ethyl-5-bromo-tryptamine-2-carboxylate hydrochloride | 2.87 mmoles | Cl.C(C)OC(=O)C1=C(CCN)C2=CC(=CC=C2N1)Br
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-bromo-tryptamine-2-carboxylic acid | 91% | BrC1=CC=C2NC(=C(CCN)C2=C1)C(=O)O | C11H11BrN2O2
